US08871950B1
(R)-1-((R)-1-Phenylethyl)-2-((1S,2S)-1,2,3-tris(benzyloxy)propyl)aziridine
To a solution of (2R,3S)-ethyl 2,3-dihydroxy-3-((R)-1-((R)-1-phenylethyl)aziridin-2-yl)propanoate (1 g, 3.57 mmol) in EtOH was added LiCl (756 mg, 17.85 mmol, 5 equiv) and NaBH4 (680 mg, 17.85 mmol, 5 equiv) at 0° C. The reaction mixture was stirred for 20 hrs at 0° C. and quenched with water. The reaction mixture was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate and the combined organic layers were dried over MgSO4, filtered through a pad of celite and concentrated in vacuo. The resulting alcohol was used without further purification. To a slurry of NaH (471 mg, 11.78 mmol, 60% dispersion in mineral oil, 3.3 equiv) in DMF (6 mL, 2 M) was added a solution of the resulting alcohol in DMF (7 mL, 0.5 M) at 0° C. After 30 min, BnBr (1.4 mL, 11.78 mmol, 3.3 equiv) was added. The reaction mixture was stirred for 6 hrs at room temperature, diluted with ethyl acetate and quenched with water. The mixture was extracted with ethyl acetate. The combined organic layer was washed with brine, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. The resulting crude product was purified by silica gel flash chromatography with ethyl acetate/hexane (1/9 to 1/6) to afford the title product. Yield: 1.29 g (71% over 2 steps); yellow oil.

reactant | (2R,3S)-ethyl 2,3-dihydroxy-3-((R)-1-((R)-1-phenylethyl)aziridin-2-yl)propanoate | 3.57 mmol, 1 g | O[C@@H](C(=O)OCC)[C@H](C1[N@](C1)[C@H](C)C1=CC=CC=C1)O | C15H21NO4
reactant | LiCl | 17.85 mmol, 756 mg, 5 equiv | [Li+].[Cl-]
reactant | NaBH4 | 17.85 mmol, 680 mg, 5 equiv | [BH4-].[Na+]
reactant | NaH | 11.78 mmol, 471 mg, 3.3 equiv | [H-].[Na+]
reactant | BnBr | 11.78 mmol, 1.4 mL, 3.3 equiv | C1=CC=C(C=C1)CBr | C7H7Br
solvent | EtOH | CCO | C2H6O
solvent | DMF | 2 M, 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 M, 7 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-1-((R)-1-Phenylethyl)-2-((1S,2S)-1,2,3-tris(benzyloxy)propyl)aziridine | C1(=CC=CC=C1)[C@@H](C)[N@@]1C(C1)[C@@H]([C@H](COCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C34H37NO3
